* D:\Users\Samuel\workspace\METR4901\LT Spice Model\SallenKeyBandPassFIlter.asc
V1 +12V 0 12
V2 -12V 0 -12
XU3 N003 N002 +12V -12V V_output TL072
C1 N001 0 {C1}
C2 N002 N001 {C2}
V3 V_sensor 0 1 AC 1.0
R1 N001 V_sensor {R1}
R2 0 N002 {R2}
R3 N001 V_output {Rf}
R4 NC_01 N003 {Ra}
R5 N003 0 {Rb}
.lib opamp.sub
* 70kHz Sallenkey Bandpass Filter \n(??? dB/Decade | Cutoff (Low) ???kHz | Cutoff (High) ???kHz)
;dc V3 -0.5 0.5 0.01
.ac dec 1000 7k 700k
.inc C:\Users\Samuel\Documents\LTspiceXVII\lib\TL072.txt
.param R1=1.3M
.param R2=31.9k
.param Rf=16.1k
.param C1=100p
.param Ra=65k
.param Rb=65k
.param C2=100p
.backanno
.end
